US07304081B2
Step A: 1-[4-(Difluoromethoxy)phenyl]cyclopropanecarboxylic acid.
Sodium hydroxide [50% aqueous solution (3.20 g)], was added to a mixture of [4-(difluoromethoxy)phenyl]acetonitrile (1.00 g, 5.4 mmol), benzyltriethylammonium chloride (0.10 g, 0.4 mmol) and 1-bromo-2-chloro-ethane (1.58 g, 11.0 mmol) at 50° C. overnight. 1,2-Ethanediol (10.00 mL) was then added to the mixture, and the resulting mixture was heated at 100° C. overnight. The mixture was then poured into ice-water (30 mL) and the resulting mixture was then extracted with ethyl ether (2×10 mL). The aqueous phase was acidified (pH=2) with 1N aqueous HCl solution, and then was extracted with ethyl acetate (4×15 mL). The combined organic phase was washed with brine (10 mL), then dried over Na2SO4, then filtered, and then concentrated under reduced pressure. The residue was the desired product which was directly used in the reaction of next step without furoom temperatureher purification.

reactant | Sodium hydroxide | 3.20 g | [OH-].[Na+]
reactant | [4-(difluoromethoxy)phenyl]acetonitrile | 5.4 mmol, 1.00 g | FC(OC1=CC=C(C=C1)CC#N)F | C9H7F2NO
reactant | 1-bromo-2-chloro-ethane | 11.0 mmol, 1.58 g | BrCCCl | C2H4BrCl
reactant | 1,2-Ethanediol | 10.00 mL | C(CO)O | C2H6O2
catalyst | benzyltriethylammonium chloride | 0.4 mmol, 0.10 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-[4-(Difluoromethoxy)phenyl]cyclopropanecarboxylic acid | FC(OC1=CC=C(C=C1)C1(CC1)C(=O)O)F | C11H10F2O3
